US06884907B2
2,4,6-Trimethoxybenzaldehyde (12.42 g, 63.3 mmol) and O-benzylhydroxylamine (7.80 g, 63.3 mmol) were stirred in dichloromethane (65 mL) at rt overnight. The solvent was removed under reduced pressure. The crude residue was dissolved in ethanol (550 mL) and sodium cyanoborohydride (12.0 g, 189.9 mmol) was added dropwise. The mixture was stirred for 5-10 min, then 12 N HCl was added dropwise until pH became below 3. The reaction mixture was stirred for additional 3 h and 1 N NaOH was added until pH>8. The product was extracted with dichloromethane. The organic phase was dried over Na2SO4 and concentrated under vacuo. The residue was purified by flash chromatography (5% ether in dichloromethane) to give 15.9 g of O-benzyl-N-(2,4,6-trimethoxy-benzyl)hydroxylamine as an oil (83% yield).

reactant | 2,4,6-Trimethoxybenzaldehyde | 63.3 mmol, 12.42 g | COC1=C(C=O)C(=CC(=C1)OC)OC | C10H12O4
reactant | O-benzylhydroxylamine | 63.3 mmol, 7.80 g | C(C1=CC=CC=C1)ON | C7H9NO
reactant | sodium cyanoborohydride | 189.9 mmol, 12.0 g | C(#N)[BH3-].[Na+]
reactant | HCl | 12 N | Cl | ClH
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | dichloromethane | 65 mL | ClCCl | CH2Cl2
product | O-benzyl-N-(2,4,6-trimethoxy-benzyl)hydroxylamine | 15.9 g, 83% yield | C(C1=CC=CC=C1)ONCC1=C(C=C(C=C1OC)OC)OC | C17H21NO4
